US08895745B2
Step b) 1-{3-[7-(1-Methyl-1H-[1,2,3]Triazol-4-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea
1-[3-(7-Ethynyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea (130 mg, 0.36 mmol) was dissolved in tert-butyl alcohol (2 mL) and water (2 mL). Sodium azide (24 mg, 0.36 mmol) was added, followed by iodomethane (0.18 mL of a 2M solution in THF, 0.36 mmol). The reaction was stirred at room temperature for 5 minutes before the addition of copper (II) sulphate (0.02 mL of a 1M aqueous solution, 0.02 mmol) and sodium ascorbate (7 mg, 0.04 mmol). The reaction was stirred for 2 h at room temperature.

reactant | 1-[3-(7-Ethynyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 0.36 mmol, 130 mg | C(#C)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H13F3N4O
reactant | Sodium azide | 0.36 mmol, 24 mg | [N-]=[N+]=[N-].[Na+]
reactant | iodomethane | IC | CH3I
reactant | sodium ascorbate | 0.04 mmol, 7 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | tert-butyl alcohol | 2 mL | C(C)(C)(C)O | C4H10O
solvent | water | 2 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
catalyst | copper (II) sulphate | S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-{3-[7-(1-Methyl-1H-[1,2,3]Triazol-4-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | CN1N=NC(=C1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C19H16F3N7O
